US04281000
A mixture of 0.10 mole of 7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine-3-carbonitrile and concentrated hydrochloric acid in acetic acid is heated at reflux temperature for 16 hours. The solvent is removed to give 7-(3-pyridyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylate hydrochloride. The preceding compound is added portionwise to a chilled solution of 0.30 mole of diborane in tetrahydrofuran. After the addition the mixture is stirred for 16 hours and poured onto ice to give the product of the example.

reactant | 7-(3-pyridyl)pyrazolo-[1,5-a]pyrimidine-3-carbonitrile | 0.10 mole | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N | C12H7N5
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-pyridyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylate hydrochloride | Cl.N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)O | InChI=1S/C12H8N4O2.ClH/c17-12(18)9-7-15-16-10(3-5-14-11(9)16)8-2-1-4-13-6-8;/h1-7H,(H,17,18);1H
